US05344830
Step D: (RS)-1-(N,N-Diphenylcarbamoyl)-2-(2-trityloxyethyl)-4-N-tritylpiperazine
To a suspension of 364 mg (0.59 mmol) of (±) 2-(2-trityloxyethyl)-4-N-tritylpiperazine in 10 ml of N,N-dimethylformamide was added 170 ml (1.22 mmol) of triethylamine in one portion and 140 mg (0.60 mmol) of diphenylcarbamyl chloride in portions and the mixture was allowed to stir under nitrogen at room temperature for 20 hours. The solution was cooled and concentrated in vacuo. Flash chromatography on 40 g of silica gel using 25:75 v/v ethyl acetate/hexane as the eluant afforded 240 mg (50%) of a yellow oil.

reactant | (±) 2-(2-trityloxyethyl)-4-N-tritylpiperazine | 0.59 mmol, 364 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OCCC1NCCN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C44H42N2O
reactant | triethylamine | 1.22 mmol, 170 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylcarbamyl chloride | 0.60 mmol, 140 mg | C1(=CC=CC=C1)N(C(=O)Cl)C1=CC=CC=C1 | C13H10ClNO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (RS)-1-(N,N-Diphenylcarbamoyl)-2-(2-trityloxyethyl)-4-N-tritylpiperazine | 240 mg, 50% | C1(=CC=CC=C1)N(C(=O)N1C(CN(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C57H51N3O2
